US07375101B2
3-Amino-7-chloro-1,3-dihydro-1-methyl-5-(3-thienyl)-2H-1,4-benzodiazepin-2-one
As illustrated in the scheme above and following General Procedure 7, 3-azido-7-chloro-1,3-dihydro-1-methyl-5-(3-thienyl)-2H-1,4-benzodiazepin-2-one (1.60 g, 4.82 mmol) and PS—PPh3 (30.0 g of 1.37 mmol/g, 41.1 mmol) were combined. After workup and purification by “catch and release,” the title compound was obtained as a brown solid (1.35 g, 92%). 1H-NMR (CDCl3): δ 7.56-7.50 (m, 4H), 7.36 (dd, J=3.1 Hz, J=4.9 Hz, 1H), 7.29 (d, J=8.8 Hz, 1H), 4.46 (s, 1H), 3.43 (s, 3H), 2.35-2.15 (br s, 2H). MS (ESI) (M+H)+=306.

reactant | 3-azido-7-chloro-1,3-dihydro-1-methyl-5-(3-thienyl)-2H-1,4-benzodiazepin-2-one | 4.82 mmol, 1.60 g | N(=[N+]=[N-])C1C(N(C2=C(C(=N1)C1=CSC=C1)C=C(C=C2)Cl)C)=O | C14H10ClN5OS
reactant | PPh3 | 41.1 mmol, 30.0 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
product | 3-Amino-7-chloro-1,3-dihydro-1-methyl-5-(3-thienyl)-2H-1,4-benzodiazepin-2-one | NC1C(N(C2=C(C(=N1)C1=CSC=C1)C=C(C=C2)Cl)C)=O | C14H12ClN3OS
